US04343722
0.76 g of dicobalt octacarbonyl, 1 g of isophthalonitrile and 20 ml of m-xylene were charged into a 100 ml eggplant type flask equipped with a reflux condenser and a gas inlet tube and the air in the flask was thoroughly replaced while introducing carbon monoxide through the gas inlet tube. Thereafter, the flask was heated in an oil bath at 160° C. for 90 minutes under reflux while passing carbon monoxide therethrough. After the heating, the flask was cooled to room temperature and the resulting precipitate was directly transferred into a 100 ml shaking type autoclave together with solvent m-xylene. After adding 9 g of isophthalonitrile and 10 ml of m-xylene thereto, the gas in the autoclave was replaced with hydrogen. Further 10 ml of liquid ammonia was added thereto and the isophthalonitrile was hydrogenated at a reaction temperature of 100° C. under an initially charged hydrogen pressure of 260 kg/cm2 gage. The reaction was completed in 120 minutes and m-xylenediamine was obtained in a yield of 96.4%.

reactant | isophthalonitrile | 1 g | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
reactant | carbon monoxide | [C]=O | CO
reactant | isophthalonitrile | 9 g | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
reactant | hydrogen | [H][H] | H2
reactant | ammonia | N | H3N
reactant | m-xylene | 10 ml | C1(=CC(=CC=C1)C)C | C8H10
reactant | m-xylene | 20 ml | C1(=CC(=CC=C1)C)C | C8H10
catalyst | dicobalt octacarbonyl | 0.76 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | m-xylenediamine | yield of 96.4% | C=1(C(=C(C(=CC1)N)C)N)C | C8H12N2
